US08536092B2
Methyl 2-(3-chloropyridin-2-yl)-5-methanesulphonyloxymethyl-2H-pyrazole-3-carboxylate
Under argon 2.10 g (7.85 mmol) of methyl 2-(3-chloropyridin-2-yl)-5-hydroxymethyl-2H-pyrazole-3-carboxylate are introduced in 13 ml of dichloromethane and this initial charge is cooled to 0° C. and admixed dropwise in succession with 1.64 ml (11.8 mmol) of triethylamine and 0.67 ml (8.63 mmol) of methanesulphonyl chloride. It is stirred at this temperature for 30 minutes, diluted with 50 ml of dichloromethane and washed successively with 50 ml each of saturated aqueous sodium hydrogen sulphate solution, 10 percent strength aqueous hydrochloric acid and saturated aqueous sodium chloride solution. The organic phase is dried over magnesium sulphate and then the solvent is removed on a rotary evaporator.

reactant | methyl 2-(3-chloropyridin-2-yl)-5-hydroxymethyl-2H-pyrazole-3-carboxylate | ClC=1C(=NC=CC1)N1N=C(C=C1C(=O)OC)CO | C11H10ClN3O3
reactant | triethylamine | 11.8 mmol, 1.64 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 8.63 mmol, 0.67 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 13 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Methyl 2-(3-chloropyridin-2-yl)-5-methanesulphonyloxymethyl-2H-pyrazole-3-carboxylate | ClC=1C(=NC=CC1)N1N=C(C=C1C(=O)OC)COS(=O)(=O)C | C12H12ClN3O5S
